US05623081
(S)-4-(Phenylmethyl)-2,5-oxazolidinedione
A mixture of 8.9 g of L-phenylalanine, 4.8 ml of trichloromethylchloroformate (Diphosgene), 70 ml of dry tetrahydrofuran and 0.135 g of activated carbon is heated in an oil bath at 55° C. for 2 hours, until the L-phenylalanine is in solution. The reaction is filtered through diatomaceous earth. The filtrate is concentrated in vacuo, treated with diethyl ether and hexane, and the resulting crystals are collected to give 1.04 g of the desired product.

reactant | L-phenylalanine | 8.9 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | trichloromethylchloroformate | 4.8 ml | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (S)-4-(Phenylmethyl)-2,5-oxazolidinedione | 1.04 g | C1(=CC=CC=C1)C[C@@H]1NC(OC1=O)=O | C10H9NO3
